US07332485B2
N-{(3S,5R)-3,5-Dimethyl-1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclohexylmethyl}-N-Hydroxy-Formamide
To a solution of N-Benzyloxy-N-{(3S,5R)-3,5-dimethyl-1-[N′-(4-trifluoromethyl-pyrimidin-2-yl)-hydrazinocarbonyl]-cyclohexylmethyl}-formamide (0.09 g, 0.19 mmol) in methanol (10 mL) was added 10% Pd/C (0.028 g). The reaction mixture was subjected to hydrogenation for 1 h at room temperature. The reaction mixture was then filtered through a pad of Celite@, and washed with methanol (20 mL). Removal of the solvent provided the title compound as a beige solid (0.053 g, 73%). MH+390.

reactant | N-Benzyloxy-N-{(3S,5R)-3,5-dimethyl-1-[N′-(4-trifluoromethyl-pyrimidin-2-yl)-hydrazinocarbonyl]-cyclohexylmethyl}-formamide | 0.19 mmol, 0.09 g | C(C1=CC=CC=C1)ON(C=O)CC1(C[C@H](C[C@H](C1)C)C)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C23H28F3N5O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.028 g | [Pd] | Pd
product | N-{(3S,5R)-3,5-Dimethyl-1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclohexylmethyl}-N-Hydroxy-Formamide | 0.053 g, 73% | C[C@@H]1CC(C[C@@H](C1)C)(C(=O)NNC1=NC=CC(=N1)C(F)(F)F)CN(C=O)O | C16H22F3N5O3
